US07851473B2
(2) 2-Chloro-4-phenyl-1,3-oxazole
To a solution of 4-phenyl-1,3-oxazol-2(3H)-one (1.00 g, 62.0 mmol) in phosphorus oxychloride (18 ml) was added pyridine (0.974 ml, 12.0 mmol), and the mixture was stirred at 100° C. for 1 hour and 20 minutes. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=9:1) to give 176 mg (15.7%) of the desired product as a solid.

reactant | 4-phenyl-1,3-oxazol-2(3H)-one | 62.0 mmol, 1.00 g | C1(=CC=CC=C1)C=1NC(OC1)=O | C9H7NO2
reactant | pyridine | 12.0 mmol, 0.974 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus oxychloride | 18 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-phenyl-1,3-oxazole | 176 mg, 15.7% | ClC=1OC=C(N1)C1=CC=CC=C1 | C9H6ClNO
